US04632930
4-(1-Methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine
To a stirred solution of 4-(1-methylethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole (12.0 g, 0.04 mole) in 150 ml of dry tetrahydrofuran was added 6.85 ml of tetramethylethylenediamine (0.045 moles). The reaction was cooled to -78° C. and 39.47 ml of 1.6M n-butyl lithium in hexane was added dropwise. After stirring the mixture for 20 minutes, 15.45 g of [1,1-di(trifluoromethyl)methyleneamino]-trimethylsilane was added dropwise. The reaction mixture was stirred an additional hour, warmed to 0° C. and 140 ml of saturated aqueous sodium bicarbonate solution was added dropwise. The reaction was warmed to room temperature and the layers were separated. The aqueous layer was extracted with ethyl acetate. The organic layers were combined and concentrated and the residue was stirred overnight in 260 ml of ethanol and 260 ml of 2N aqueous hydrochloric acid. The ethanol was evaporated and the aqueous was extracted with ether (3×), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The product was purified by flash chromatography on silica gel (92:8 hexane/ethyl acetate) to afford 2.67 g of a white crystalline solid, m.p. 105°-107° C.

reactant | 4-(1-methylethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole | 0.04 mole, 12.0 g | CC(C)C=1N=CN(C1C1=CC=C(C=C1)SC)C(C)OCC | C17H24N2OS
reactant | tetramethylethylenediamine | 0.045 moles, 6.85 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 1.6M, 39.47 ml | C(CCC)[Li]
reactant | [1,1-di(trifluoromethyl)methyleneamino]-trimethylsilane | 15.45 g | FC(C(C(F)(F)F)=N[Si](C)(C)C)(F)F | C6H9F6NSi
reactant | sodium bicarbonate | 140 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(1-Methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine | 2.67 g | CC(C)C=1N=C(NC1C1=CC=C(C=C1)SC)C(N)(C(F)(F)F)C(F)(F)F | C16H17F6N3S
